US07166598B2
2-Bromoethanol (310 mg) was added to a solution of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-[4-(trifluoromethyl)-benzyl]piperazine (1 g) in acetonitrile (10 ml). The reaction mixture was stirred at 70° C. for 19 hours. The mixture was filtered, and the residue on filter was washed with dichloromethane twice. The filtrate and combined washings were concentrated in vacuo. The residue was purified by silica gel column chromatography eluted with methanol in dichloromethane (2% then 5%) to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-(2-hydroxyethyl)-2-[4-(trifluoromethyl)benzyl]piperazine (927 mg) as an amorphous powder.

reactant | 2-Bromoethanol | 310 mg | BrCCO | C2H5BrO
reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-[4-(trifluoromethyl)-benzyl]piperazine | 1 g | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CC=C(C=C2)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C21H17F9N2O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-(2-hydroxyethyl)-2-[4-(trifluoromethyl)benzyl]piperazine | 927 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCO)CC2=CC=C(C=C2)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C23H21F9N2O2
